US04205078
1-n-Butyl-3-(β-diethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one
N1 -β-chloroethyl-N4 -methylpiperazine, 1-n-butyl-3-[N1 -β-(N4 -methyl)-piperazinoethoxy]-4-phenyl-3-pyrrolin-2-one; dioxalate m.p. 199° C. 32.5 g. (0.14 mol) 1-n-butyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one is added, with stirring, at 40° C. to a suspension of 4.2 g. sodium hydride (80%) in 200 ml. dimethyl formamide. When the evolution of hydrogen ceases, 30.0 g. N1 -β-chloroethyl-N4 -methylpiperazine is added and the mixture allowed to react for 30 minutes at 70° C. The mixture is immediately poured into 1.5 liters of ice water. This is then extracted twice with dichloromethane and the organic phase is washed with water. After drying over anhydrous magnesium sulphate, the solvent is distilled off. The residue (base) is taken up in diethyl ether and oxalic acid is added to precipitate out the di-oxalate. After recrystallization of this dioxalate from aqueous methanol, there is obtained 33.0 g. (44% of theory) of the desired end product.

reactant | N1 -β-chloroethyl-N4 -methylpiperazine | ClCCN1CCN(CC1)C | C7H15ClN2
reactant | 1-n-butyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one | 0.14 mol | C(CCC)N1C(C(=C(C1)C1=CC=CC=C1)O)=O | C14H17NO2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 1-n-Butyl-3-(β-diethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one | C(CCC)N1C(C(=C(C1)C1=CC=CC=C1)OCCN(CC)CC)=O | C20H30N2O2
